### PR TITLE
chore: deprecate `Nat.(case_)strong_induction_on`

### PR DESCRIPTION
**Pull request by Parcly-Taxel**
…in favour of the now-renamed `Nat.(case)strongInductionOn` in core.

### CODE REVIEW

File: Mathlib/Data/Finset/Card.lean [hunk 1]
```diff
@@ -760,12 +760,14 @@ theorem strongInductionOn_eq {p : Finset α → Sort*} (s : Finset α)
   rw [strongInduction]
 
 @[elab_as_elim]
-theorem case_strong_induction_on [DecidableEq α] {p : Finset α → Prop} (s : Finset α) (h₀ : p ∅)
+theorem caseStrongInductionOn [DecidableEq α] {p : Finset α → Prop} (s : Finset α) (h₀ : p ∅)
```
Comment (b-mehta) [inline Mathlib/Data/Finset/Card.lean:763]: This one shouldn't be renamed: the others have names following https://leanprover-community.github.io/contribute/naming.html, and this one did too, whereas the suggested change here breaks this convention.

File: Mathlib/Data/Nat/Defs.lean [hunk 2]
```diff
@@ -831,11 +831,12 @@ def twoStepInduction {P : ℕ → Sort*} (zero : P 0) (one : P 1)
   | 1 => one
   | _ + 2 => more _ (twoStepInduction zero one more _) (twoStepInduction zero one more _)
 
-@[elab_as_elim]
+@[elab_as_elim, deprecated (since := "2024-09-04")]
```
Comment (b-mehta) [inline Mathlib/Data/Nat/Defs.lean:834]: Please add the name of the lemma this is deprecated in favour of.

File: Mathlib/Data/Nat/Defs.lean [hunk 3]
```diff
@@ -831,11 +831,12 @@ def twoStepInduction {P : ℕ → Sort*} (zero : P 0) (one : P 1)
...
 protected theorem strong_induction_on {p : ℕ → Prop} (n : ℕ)
     (h : ∀ n, (∀ m, m < n → p m) → p n) : p n :=
   Nat.strongRecOn n h
 
+@[deprecated (since := "2024-09-04")]
```
Comment (b-mehta) [inline Mathlib/Data/Nat/Defs.lean:839]: as above.

**Review by b-mehta — CHANGES_REQUESTED** [review]

File: Mathlib/Data/Nat/Defs.lean (hunk 2 above)
Comment (Parcly-Taxel) [reply Mathlib/Data/Nat/Defs.lean:834]:
```suggestion
@[elab_as_elim, deprecated strongRecOn (since := "2024-09-04")]
```

File: Mathlib/Data/Nat/Defs.lean (hunk 3 above)
Comment (Parcly-Taxel) [reply Mathlib/Data/Nat/Defs.lean:839]:
```suggestion
@[deprecated caseStrongRecOn (since := "2024-09-04")]
```

File: Mathlib/Data/Finset/Card.lean (hunk 1 above)
Comment (Parcly-Taxel) [reply Mathlib/Data/Finset/Card.lean:763]:
```suggestion
theorem case_strong_induction_on [DecidableEq α] {p : Finset α → Prop} (s : Finset α) (h₀ : p ∅)
```

File: Mathlib/Data/Finset/Card.lean [hunk 4]
```diff
@@ -20,7 +20,7 @@ This defines the cardinality of a `Finset` and provides induction principles for
 * `Finset.strongInductionOn`
 * `Finset.strongDownwardInduction`
 * `Finset.strongDownwardInductionOn`
-* `Finset.case_strong_induction_on`
+* `Finset.caseStrongInductionOn`
```
Comment (Parcly-Taxel) [inline Mathlib/Data/Finset/Card.lean:23]:
```suggestion
* `Finset.case_strong_induction_on`
```

File: Mathlib/RingTheory/Adjoin/PowerBasis.lean [hunk 5]
```diff
@@ -145,17 +145,16 @@ theorem repr_pow_isIntegral [IsDomain S] (hB : IsIntegral R B.gen) {x : A}
     ∀ i, IsIntegral R (B.basis.repr (x ^ n) i) := by
   nontriviality A using Subsingleton.elim (x ^ n) 0, isIntegral_zero
   revert hx
```
Comment (b-mehta) [inline Mathlib/RingTheory/Adjoin/PowerBasis.lean:147]: since we're now using the induction tactic, it looks like this `revert` and then `intro` become unneeded?

File: Mathlib/Computability/Primrec.lean [hunk 6]
```diff
@@ -822,8 +822,8 @@ instance list : Primcodable (List α) :=
     nat_iff.1 <|
       (encode_iff.2 this).of_eq fun n => by
         rw [List.foldl_reverse]
-        apply Nat.case_strong_induction_on n; · simp
-        intro n IH; simp
+        induction n using Nat.caseStrongRecOn with | zero => simp | ind n IH => _
+        simp
```
Comment (b-mehta) [inline Mathlib/Computability/Primrec.lean:826]: This looks like a non-terminal simp, right?

**Review by b-mehta — COMMENTED** [review]
Hmm, I wonder if there's pedagogical and discoverability value in keeping a version with the name `induction` in it. Let's maybe ask on zulip.

File: Mathlib/Computability/Primrec.lean (hunk 6 above)
Comment (Parcly-Taxel) [reply Mathlib/Computability/Primrec.lean]: Done.

**Comment by Parcly-Taxel** [comment]
> > Hmm, I wonder if there's pedagogical and discoverability value in keeping a version with the name `induction` in it. Let's maybe ask on zulip.
> 
> Did the discussion on zulip happen? If so, please link to it from the PR commit message.

I thought you were going to start the discussion.

**Comment by jcommelin** [comment]
I agree with Bhavik that there is value in having `induction` in the name of this result.

So I'm closing this now. Feel free to reopen if you can show an overwhelming majority in favour of this patch.
